US06037350
Butyllithium in hexane (1.6 M) (12.75 ml) was added dropwise at -20° C. under N2 to a solution of 6-bromo-4-(3-chlorophenyl)-2-methoxyquinoline (6.7 g) in THF (60 ml) and the mixture was stirred at -20° C. for 30 minutes. A solution of (1-butyl-1H-imidazol-5-yl)(4-chlorophenyl)methanone (3.35 g) in tetrahydrofuran (30 ml) was added at -20° C. under N2 and the mixture was stirred at room temperature for one night. Water was added and the mixture was extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered off and evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH/NH4OH 97/3/0.1). The pure fractions were collected and evaporated, yielding 2.5 g (total 48%) of (±)-α-(1-butyl-1H-imidazol-5-yl)-4-(3-chlorophenyl)-α-(4-chlorophenyl)-2-methoxy-6-quinolinemethanol (interm. 2).

reactant | Butyllithium | C(CCC)[Li]
reactant | 6-bromo-4-(3-chlorophenyl)-2-methoxyquinoline | 6.7 g | BrC=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)Cl | C16H11BrClNO
reactant | (1-butyl-1H-imidazol-5-yl)(4-chlorophenyl)methanone | 3.35 g | C(CCC)N1C=NC=C1C(=O)C1=CC=C(C=C1)Cl | C14H15ClN2O
reactant | Water | O | H2O
solvent | hexane | 1.6 M, 12.75 ml | CCCCCC | C6H14
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (±)-α-(1-butyl-1H-imidazol-5-yl)-4-(3-chlorophenyl)-α-(4-chlorophenyl)-2-methoxy-6-quinolinemethanol | 2.5 g, 48% | C(CCC)N1C=NC=C1C(O)(C=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)Cl)C1=CC=C(C=C1)Cl | C30H27Cl2N3O2
